US07745484B2
Step 1: 1-(2,2-dimethoxyethyl)cyclopropanol
To a 1.0 L RBF containing methyl 3,3-dimethoxypropanoate (17.6500 g, 119 mmol) was added THF (150 ml) and diethyl ether (150 ml), and the mixture was allowed to stir at 0° C. for 15 min. At this time, tetra-isopropoxy titanium (6.98 ml, 23.8 mmol) was added in one portion before the dropwise addition of ethylmagnesium bromide (99.3 ml, 298 mmol) via syringe. The reaction was allowed to warm to 23° C. and stir for 14 hours before being re-chilled to 0° C. After 5 min at this temp, water (15 ml) was added and a solid formed. Diethyl ether (200 ml) was added and the quenched reaction was stirred for 10 min before filtering through a plug of magnesium sulfate. The filtrate was dried with additional magnesium sulfate, filtered and concentrated to give a colorless oil. The crude material was used directly in the next reaction.

reactant | methyl 3,3-dimethoxypropanoate | 119 mmol, 17.6500 g | COC(CC(=O)OC)OC | C6H12O4
reactant | THF | 150 ml | C1CCOC1 | C4H8O
reactant | ethylmagnesium bromide | 298 mmol, 99.3 ml | C(C)[Mg]Br
catalyst | tetra-isopropoxy titanium | 23.8 mmol, 6.98 ml | C(C)(C)O[Ti](OC(C)C)(OC(C)C)OC(C)C
solvent | Diethyl ether | 200 ml | C(C)OCC | C4H10O
solvent | water | 15 ml | O | H2O
solvent | diethyl ether | 150 ml | C(C)OCC | C4H10O
product | 1-(2,2-dimethoxyethyl)cyclopropanol | COC(CC1(CC1)O)OC | C7H14O3
